US07323475B2
c) [(4-Hydroxy-6-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid
127 mg of 4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester (0.36 mmol) were reacted with glycine and sodium methylate analogously to Example D-1 g). 118 mg of the title compound were obtained; 1H NMR (DMSO-d6): δ=9.33 (t, 1H), 8.80 (s, 1H), 8.11 (d, 1H), 7.79 (s, 1H), 7.49 to 7.65 (m, 6H), 4.01 (d, 2H).

reactant | 4-hydroxy-6-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 0.36 mmol, 127 mg | C(CCC)OC(=O)C=1N=CC2=CC=C(C=C2C1O)SC1=CC=CC=C1 | C20H19NO3S
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | sodium methylate | C[O-].[Na+]
product | [(4-Hydroxy-6-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 118 mg | OC1=C(N=CC2=CC=C(C=C12)SC1=CC=CC=C1)C(=O)NCC(=O)O | C18H14N2O4S
